US04588749
N[2-(2-Methylphenyl)-1-methylethyl]-2-hydroxy-2-(2-fluorophenyl)ethanamine
A mixture of 2-hydroxy-2-(2-fluorophenyl)ethanamine (1.54 g) and 4-methylphenylacetone (1.48 g) was refluxed in benzene (70 ml) under Dean & Stark conditions for 4h. The solvent was removed under reduced pressure, replaced with methanol and sodium borohydride (3 g) added portionwise. The solvent was evaporated under reduced pressure, the residue partitioned between water and ether and the ether layer dried (MgSO4). Removal of the solvent under reduced pressure gave an oil which was chromatographed on Kieselgel 60. Elution with 1% methanol-chloroform gave the title compound (1.58 g) as a 49:51 mixture of diastereoisomers, mp 65-68 (hexane).

reactant | 2-hydroxy-2-(2-fluorophenyl)ethanamine | 1.54 g | OC(CN)C1=C(C=CC=C1)F | C8H10FNO
reactant | 4-methylphenylacetone | 1.48 g | CC1=CC=C(C=C1)CC(C)=O | C10H12O
reactant | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | N[2-(2-Methylphenyl)-1-methylethyl]-2-hydroxy-2-(2-fluorophenyl)ethanamine | 1.58 g | CC1=C(C=CC=C1)CC(C)NCC(C1=C(C=CC=C1)F)O | C18H22FNO
